US06982348B2
1) (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-[2-(trifluoromethyl)-1,3-thiazol-5-yl]propan-1-ol
A solution of tert-butyl N-[(1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-[[2-(trifluoromethyl)-1,3-thiazol-5-yl]methyl]ethyl]carbamate (0.711 g, 1.691 mmol) and conc. hydrochloric acid (0.5 ml) in methanol (5 ml) was heated under reflux for 10 min. The reaction solution was diluted with water, alkalified with potassium carbonate and extracted twice with ethyl acetate. The collected organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel (APS type) column chromatography (ethyl acetate) to give the objective substance.

reactant | tert-butyl N-[(1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-[[2-(trifluoromethyl)-1,3-thiazol-5-yl]methyl]ethyl]carbamate | 1.691 mmol, 0.711 g | FC1=CC=C(C=C1)C(C(CC1=CN=C(S1)C(F)(F)F)NC(OC(C)(C)C)=O)O | C18H20F4N2O3S
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 5 ml | CO | CH4O
solvent | water | O | H2O
product | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-[2-(trifluoromethyl)-1,3-thiazol-5-yl]propan-1-ol | NC(C(O)C1=CC=C(C=C1)F)CC1=CN=C(S1)C(F)(F)F | C13H12F4N2OS
